US06177449B1
b) N-[2,2-Dimethyl-6-hydroxychroman-4-yl]-N-(1-propyl)ethanesulfonamide
6.0 g of N-[6-benzyloxy-2,2-dimethylchroman-4-yl]-N-(1-propyl)ethanesulfonamide were dissolved in 150 ml of THF/methanol (1:1) and hydrogenated in a shaking duck using Pdlcarbon, 4.4 g of product, m.p. 173-175° C. (from petroleum ether).

reactant | N-[6-benzyloxy-2,2-dimethylchroman-4-yl]-N-(1-propyl)ethanesulfonamide | 6.0 g | C(C1=CC=CC=C1)OC=1C=C2C(CC(OC2=CC1)(C)C)N(S(=O)(=O)CC)CCC | C23H31NO4S
solvent | THF methanol | 150 ml | C1CCOC1.CO
product | N-[2,2-Dimethyl-6-hydroxychroman-4-yl]-N-(1-propyl)ethanesulfonamide | CC1(OC2=CC=C(C=C2C(C1)N(S(=O)(=O)CC)CCC)O)C | C16H25NO4S
